US20010003782A1
3β-Hydroxy-4,4-dimethylchola-5,7-dien-24-oic acid
3β-Hydroxy-4,4-dimethylchola-5,7-dien-24-oic acid methyl ester (120 mg) is saponified in a mixture of 15 ml of methanol, 15 ml of THF and 0.7 ml of 1 M sodium hydroxide at 50° C. After aqueous work-up and crystallisation from methanol, the title compound (76 mg) is isolated. Melting point: 210-213° C.

reactant | 3β-Hydroxy-4,4-dimethylchola-5,7-dien-24-oic acid methyl ester | 120 mg | COC(CC[C@@H](C)[C@H]1CC[C@H]2C3=CC=C4C([C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)(C)C)=O | C27H42O3
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M, 0.7 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 3β-Hydroxy-4,4-dimethylchola-5,7-dien-24-oic acid | 76 mg | O[C@@H]1C(C2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C26H40O3
